US05705499
2-chloro-5,11-dihydro-11-ethyl-5-methyl-8-(N-methylphenylamino)methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
The 2-chloro-8-chloromethyl-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one (0.050 g, 0.15 mmol) was dissolved in N-methylaniline (1 mL) and stirred for 3 days. The mixture was purified by column chromatography (hexanes to ethyl acetate gradient) to give the title compound (0.025 g, 41%), m.p. 55°-57° C., foam.

reactant | 2-chloro-8-chloromethyl-5,11-dihydro-11-ethyl-5-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.15 mmol, 0.050 g | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CCl)=O)C | C15H14Cl2N4O
reactant | N-methylaniline | 1 mL | CNC1=CC=CC=C1 | C7H9N
product | 2-chloro-5,11-dihydro-11-ethyl-5-methyl-8-(N-methylphenylamino)methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.025 g, 41% | ClC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CN(C)C3=CC=CC=C3)=O)C | C22H22ClN5O
